US05145790
2,5,5'-Trichloro-2'-nitrobiphenyl was prepared according to the procedure in Example 2A from 2-nitro-5-chloroaniline (2.6 g, 15 mmol) and 1,4-dichlorobenzene (29.5 g, 200 mmol). Purification was by filtration through silica gel (see Example 1A) eluting with hexanes/methylene chloride 80:20 yielding the title compound (830 mg). Mass spectrum: m/z at 301 for C12H6Cl3NO2.

reactant | 2-nitro-5-chloroaniline | 15 mmol, 2.6 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)Cl | C6H5ClN2O2
reactant | 1,4-dichlorobenzene | 200 mmol, 29.5 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
product | 2,5,5'-Trichloro-2'-nitrobiphenyl | ClC1=C(C=C(C=C1)Cl)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C12H6Cl3NO2
